US06900243B2
a) [3-(5-Chloro-2-nitrophenoxy)pentyl]methylcarbamic Acid, 1,1-dimethylethyl ester
The title compound was prepared according to the method of Example 3 step (b) but using (3-hydroxypentyl)methylcarbamic acid, 1,1-dimethylethyl ester and 4-chloro-2-fluoronitrobenzene.

reactant | (3-hydroxypentyl)methylcarbamic acid, 1,1-dimethylethyl ester | OC(CCN(C(OC(C)(C)C)=O)C)CC | C11H23NO3
reactant | 4-chloro-2-fluoronitrobenzene | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
product | [3-(5-Chloro-2-nitrophenoxy)pentyl]methylcarbamic Acid, 1,1-dimethylethyl ester | ClC=1C=CC(=C(OC(CCN(C(OC(C)(C)C)=O)C)CC)C1)[N+](=O)[O-] | C17H25ClN2O5
